US07968573B2
A mixture of 10.7 g of 3-bromo-1H-pyrazole, 11.8 g of 2,3-dichloropyridine, 57.3 g of cesium carbonate and 80 ml of N,N-dimethylformamide was stirred at 100° C. for 8 hours. The reaction mixture was allowed to cool to room temperature, and water was poured thereto. The mixture was extracted with methyl tert-butyl ether two times. The organic layers were combined, washed successively with water and an aqueous saturated sodium chloride solution, dried over magnesium sulfate, and concentrated under reduced pressure. The resulting residue was subjected to silica gel column chromatography to obtain 12.9 g of 2-(3-bromo-1H-pyrazol-1-yl)-3-chloropyridine of the formula:

reactant | 3-bromo-1H-pyrazole | 10.7 g | BrC1=NNC=C1 | C3H3BrN2
reactant | 2,3-dichloropyridine | 11.8 g | ClC1=NC=CC=C1Cl | C5H3Cl2N
reactant | cesium carbonate | 57.3 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | N,N-dimethylformamide | 80 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 2-(3-bromo-1H-pyrazol-1-yl)-3-chloropyridine | 12.9 g | BrC1=NN(C=C1)C1=NC=CC=C1Cl | C8H5BrClN3
